US07425634B2
(4h) 2-(((4-(2-(8-ethyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)ethoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole
To a THF (10 ml) solution of the (4-(2-(8-ethyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)ethoxy)-3-methylpyridin-2-yl)methanol (560 mg, 1.65 mmol) obtained in the step (4g), triethylamine (0.48 ml, 3.44 mmol) was added at room temperature and thereafter, methanesulfonyl chloride (0.19 ml, 2.45 mmol) was added while cooling in an ice salt bath and stirred under the same conditions for 30 minutes. After the ice salt bath was removed, 2-mercaptobenzimidazole (248 mg, 1.65 mmol) was added and stirred at room temperature for 22 hours. After the reaction mixture was concentrated, NH silica gel was added to the residue and dried. The crude substance was purified by silica gel column chromatography (elution solvent: heptane/ethyl acetate=1/0, 1/1-0/1 gradient) and a desired fraction(s) was concentrated. The obtained foamy product was dissolved in chloroform and diethyl ether was added thereto. The resulting solid was collected by filtration to obtain the title compound (410 mg, yield: 52.7%) as a white solid.

reactant | (4-(2-(8-ethyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)ethoxy)-3-methylpyridin-2-yl)methanol | 1.65 mmol, 560 mg | C(C)C1(OCC2(OCCO2)CO1)CCOC1=C(C(=NC=C1)CO)C | C17H25NO6
reactant | triethylamine | 3.44 mmol, 0.48 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.45 mmol, 0.19 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-mercaptobenzimidazole | 1.65 mmol, 248 mg | SC=1NC2=C(N1)C=CC=C2 | C7H6N2S
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-(((4-(2-(8-ethyl-1,4,7,9-tetraoxaspiro[4.5]dec-8-yl)ethoxy)-3-methylpyridin-2-yl)methyl)thio)-1H-benzimidazole | 410 mg, yield: 52.7% | C(C)C1(OCC2(OCCO2)CO1)CCOC1=C(C(=NC=C1)CSC1=NC2=C(N1)C=CC=C2)C | C24H29N3O5S
